US07375115B2
Dimethyl 2-(1-methoxycarbonylmethylcyclohexyl)malonate
To a solution of diisopropylamine (1.01 mL, 7.2 mmol) in tetrahydrofuran (8 mL) under cooling to −78° C. were added a solution of 1.5M n-butyl lithium/hexane solution (4.4 mL). After stirring the solution at −78° C. for 1 hour, a solution of dimethyl 1,1-cyclohexanediacetate (685 mg) in tetrahydrofuran (7 mL) was added thereto. The solution was stirred at −78° C. for 1 hour. Methyl chloroformate (0.93 mL) was then added to the solution, and it was stirred at −78° C. for 1 hour. Water and 3N hydrochloric acid were added to the solution, and it was extracted with ethyl acetate. The organic layer was washed in turn with water and saturated aqueous sodium chloride solution. The solution was dried over anhydrous magnesium sulfate, and then, concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=85:15) to give the title compound (490 mg).

reactant | diisopropylamine | 7.2 mmol, 1.01 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium hexane | 1.5M, 4.4 mL | C(CCC)[Li].CCCCCC
reactant | dimethyl 1,1-cyclohexanediacetate | 685 mg | C1(CCCCC1)(CC(=O)OC)CC(=O)OC | C12H20O4
reactant | Methyl chloroformate | 0.93 mL | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | Dimethyl 2-(1-methoxycarbonylmethylcyclohexyl)malonate | 490 mg | COC(=O)CC1(CCCCC1)C(C(=O)OC)C(=O)OC | C14H22O6
